US08623897B2
Synthesis of 1,1′-undecane-1,11-diyldicyclopropanecarbonitrile
A solution of n-butyl lithium in hexane (1.8M, 297 mL, 0.53 mol) was added drop wise to a solution of freshly distilled diisopropylamine (78.3 mL, 0.50 mol) in dry THF (400 mL) at −60° C. under nitrogen atmosphere. The reaction mixture was slowly warmed to −20° C. and stirred for 30 min. The reaction mixture was re-cooled to −78° C., DMPU (8.16 g, 0.06 mol) was added drop wise and stirred for 15 min. Then cyclopropane carbonitrile (34.17 g, 0.50 mol) was added drop wise over a period 30 min and stirred for 1 h. To the reaction mixture was added drop wise 1,11-dibromoundecane (40.0 g, 0.12 mol) in dry THF (40 mL) and continued stirring at −78° C. for 2 h. The reaction mixture was slowly allowed to reach room temperature and continued stirring over a period of 16 h. The resulting reaction mixture was quenched with saturated NH4Cl (1.0 L) at 0° C. and the reaction mixture was extracted with ethyl acetate (600 mL×2). The organic phases were combined, dried over anhydrous Na2SO4 and volatiles were evaporated under reduced pressure to yield a pale yellow liquid which was purified through silica gel (230-400) column (5% ethyl acetate in petroleum ether) to give product as a pale yellow liquid 25 g (68.5%).

reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 0.53 mol, 1.8M, 297 mL | CCCCCC | C6H14
reactant | diisopropylamine | 0.50 mol, 78.3 mL | C(C)(C)NC(C)C | C6H15N
reactant | DMPU | 0.06 mol, 8.16 g | CN1CCCN(C1=O)C | C6H12N2O
reactant | cyclopropane carbonitrile | 0.50 mol, 34.17 g | C1(CC1)C#N | C4H5N
reactant | 1,11-dibromoundecane | 0.12 mol, 40.0 g | BrCCCCCCCCCCCBr | C11H22Br2
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 1,1′-undecane-1,11-diyldicyclopropanecarbonitrile | 25 g, 68.5% | C(CCCCCCCCCCC1(CC1)C#N)C1(CC1)C#N | C19H30N2
